US07385059B2
Trifluoroacetic acid (200 μl) was added to a stirred suspension of {2-[3-(4-fluoro-phenylcarbamoyl)-1H-pyrazol-4-ylcarbamoyl]-1-methyl-1H-imidazol-4-yl}-carbamic acid tert-butyl ester (30 mg) in dichloromethane (5 ml), then stirred at room temperature for 2 hours. The solvent was evaporated then re-evaporated with toluene (2×10 ml). The residue was triturated with diethyl ether and the resultant solid collected by filtration. The solid was washed with diethyl ether then dried under vacuum to give 15 mg of 4-[(4-amino-1-methyl-1H-imidazole-2-carbonyl)-amino]-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide as an off-white solid. (LC/MS: [M+H]+343.72).

reactant | Trifluoroacetic acid | 200 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | {2-[3-(4-fluoro-phenylcarbamoyl)-1H-pyrazol-4-ylcarbamoyl]-1-methyl-1H-imidazol-4-yl}-carbamic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(NC=1N=C(N(C1)C)C(NC=1C(=NNC1)C(NC1=CC=C(C=C1)F)=O)=O)=O | C20H22FN7O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(4-amino-1-methyl-1H-imidazole-2-carbonyl)-amino]-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 15 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1NC(=O)C=1N(C=C(N1)N)C | C15H14FN7O2
